US09145441B2
Compound 102a. 3-Methyl-3-vinyl-dihydro-furan-2-one
A solution of N,N-diisopropylamine (1.68 mL, 0.012 mol) in anhydrous tetrahydrofuran (20 mL) was cooled to −30° C. under a nitrogen atmosphere. A 2.5 M solution of n-butyllithium (4.4 mL, 0.011 mol) in hexanes was added and the reaction was allowed to warm to −10° C. The solution was stirred for 10 minutes before adding 3-methyl-dihydro-furan-2-one (1.0 g, 0.01 mol) in tetrahydrofuran (10 mL). The reaction mixture was stirred at −5° C. for 15 minutes before adding di-μ-bromobis(tri-tert-butylphosphino) dipalladium (I) (93 mg, 0.12 mmol) and vinyl bromide (1 M in tetrahydrofuran, 13 mL, 0.13 mmol). The reaction was allowed to warm to room temperature and was stirred for 2 h. The reaction mixture was then cooled to −10° C. before adding saturated aqueous ammonium chloride solution (20 mL) then hydrochloric acid (2 M) to pH 1. The layers were separated and the aqueous layer was extracted with diethyl ether (20 mL). The organic layers were combined, dried over anhydrous sodium sulfate, filtered and evaporated to give an orange gum. The gum was purified by silica gel chromatography eluting with iso-hexanes/diethyl ether 1:1 to yield the title product (0.533 g, 42%) as a yellow oil. 1H NMR (300 MHz, CDCl3) δ 1.38 (s, 3H), 2.11-2.22 (m, 1H), 2.31-2.41 (m, 1H), 4.20-4.36 (m, 2H), 5.16-5.26 (m, 2H), 5.84-5.96 (m, 1H).

reactant | N,N-diisopropylamine | 0.012 mol, 1.68 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 0.011 mol, 4.4 mL | C(CCC)[Li]
reactant | 3-methyl-dihydro-furan-2-one | 0.01 mol, 1.0 g | CC1C(OCC1)=O | C5H8O2
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | vinyl bromide | 0.13 mmol, 1 M, 13 mL | C(=C)Br | C2H3Br
product | 3-Methyl-3-vinyl-dihydro-furan-2-one | 0.533 g, 42% | CC1(C(OCC1)=O)C=C | C7H10O2
